US07375087B2
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]phenyl}methyl)-5-isopropyl-1H-pyrazole (0.4 g) in N,N-dimethylformamide (2 mL) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.18 g), 1-hydroxybenzotriazole (0.13 g), benzyl 2-amino-2-methylpropionate p-toluenesulfonic acid salt (1.16 g) and triethylamine (0.64 g) at room temperature, and the mixture was stirred overnight. To the reaction mixture was added water, and the resulting mixture was extracted with dichloromethane. The organic layer was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1-ethyl acetate) to give 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{(1E)-3-[1-benzyloxycarbonyl-1-(methyl)-ethylcarbamoyl]prop-1-enyl}phenyl)methyl]-5-isopropyl-1H-pyrazole (0.18 g). This material was dissolved in methanol (2 mL). To the solution was added 10% palladium-carbon powder (50 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 4 hours. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give the title compound (0.15 g).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]phenyl}methyl)-5-isopropyl-1H-pyrazole | 0.4 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)\C=C\CC(=O)O)C(C)C | C31H38N2O12
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.18 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.13 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | benzyl 2-amino-2-methylpropionate p-toluenesulfonic acid salt | 1.16 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.NC(C(=O)OCC1=CC=CC=C1)(C)C
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 0.64 g | C(C)N(CC)CC | C6H15N
product | 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{(1E)-3-[1-benzyloxycarbonyl-1-(methyl)-ethylcarbamoyl]prop-1-enyl}phenyl)methyl]-5-isopropyl-1H-pyrazole | 0.18 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)\C=C\CC(NC(C)(C)C(=O)OCC1=CC=CC=C1)=O)C(C)C | C42H51N3O13
